US08604074B2
Step 2. Synthesis of 2-nitro-N-(2-(oxiran-2-yl)ethyl)-N-phenylbenzenesulfonamide
mCPBA (77%, 0.0550 g, 0.246 mmol) was added to N-(but-3-enyl)-2-nitro-N-phenylbenzenesulfonamide (0.0653 g, 0.196 mmol) in 1 mL CHCl3 at 0° C. The mixture was stirred at 0° C. for 30 min, then gradually warmed up to room temperature and continued to stir for 18 hr. After TLC showed the disappearance of starting material, the reaction mixture was diluted with a 1:1 mixture of water and saturated NaHCO3 (2×10 mL) and water (10 mL). The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford 0.0662 g colorless oil as product, yield 96.9%.

reactant | mCPBA | 0.246 mmol, 0.0550 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | N-(but-3-enyl)-2-nitro-N-phenylbenzenesulfonamide | 0.196 mmol, 0.0653 g | C(CC=C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C16H16N2O4S
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-nitro-N-(2-(oxiran-2-yl)ethyl)-N-phenylbenzenesulfonamide | 0.0662 g, yield 96.9% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(C1=CC=CC=C1)CCC1OC1 | C16H16N2O5S
